US06191134B1
6-Bromo-5-methyl-8-nitro-1,4-dihydro-benzo[d][1,3]-oxazin-2-one
To a solution of 6-bromo-5-methyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one (0.726 g, 3 mmol) in concentrate H2SO4 (4 mL), KNO3 (0.303 g, 3 mmol) was added at 0° C. Reaction mixture stirred 14 hours and poured over crushed ice. Yellow precipitate was obtained, which was filtered and dried.

reactant | 6-bromo-5-methyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 3 mmol, 0.726 g | BrC1=C(C2=C(NC(OC2)=O)C=C1)C | C9H8BrNO2
reactant | KNO3 | 3 mmol, 0.303 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
product | 6-Bromo-5-methyl-8-nitro-1,4-dihydro-benzo[d][1,3]-oxazin-2-one | BrC1=C(C2=C(NC(OC2)=O)C(=C1)[N+](=O)[O-])C | C9H7BrN2O4
